US04012499
B. Preparation of 3-cyanothioxanthone-10,10-dioxide
3-Carbamoylthioxanthone-10,10-dioxide (32.5 g) was dissolved in dimethyl formamide (ca. 1 litre) and cooled to -10° C in a solid carbon dioxide ethanol bath. Thionyl chloride (80 ml) was then added dropwise over 0.5 hour, maintaining the internal temperature at -5° to -10° C. Stirring was continued at this temperature for a further 2 hours. The reaction mixture was then poured into ice-water. The precipitated solid was filtered off, washed well with water, and dried at 100° C. The resulting 3-cyanothioxanthone-10,10-dioxide had a melting point of 282- 283° C.

reactant | 3-Carbamoylthioxanthone-10,10-dioxide | 32.5 g | C(N)(=O)C=1C=CC=2C(C3=CC=CC=C3S(C2C1)(=O)=O)=O | C14H9NO4S
reactant | Thionyl chloride | 80 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dimethyl formamide | ca. 1 litre | CN(C=O)C | C3H7NO
product | 3-cyanothioxanthone-10,10-dioxide | C(#N)C=1C=CC=2C(C3=CC=CC=C3S(C2C1)(=O)=O)=O | C14H7NO3S
